US09447044B2
Step A: 3-[4-(6-sec-butylsulfanyl-pyridin-2-ylmethoxy)-3,5-difluoro-phenyl]-2-methyl-propionic acid ethyl ester
2-sec-Butylsulfanyl-6-chloromethyl-pyridine (28 mg, 0.13 mmol) in Step C of Preparation Example 5 and 3-(3,5-difluoro-4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester (30 mg, 0.13 mmol) in Step B of Preparation Example 34 were used to react in the same manner as in Step A of Example 1 to obtain the title compound (50 mg, 96%).

reactant | 2-sec-Butylsulfanyl-6-chloromethyl-pyridine | 0.13 mmol, 28 mg | C(C)(CC)SC1=NC(=CC=C1)CCl | C10H14ClNS
reactant | 3-(3,5-difluoro-4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | 0.13 mmol, 30 mg | C(C)OC(C(CC1=CC(=C(C(=C1)F)O)F)C)=O | C12H14F2O3
product | 3-[4-(6-sec-butylsulfanyl-pyridin-2-ylmethoxy)-3,5-difluoro-phenyl]-2-methyl-propionic acid ethyl ester | 50 mg, 96% | C(C)OC(C(CC1=CC(=C(C(=C1)F)OCC1=NC(=CC=C1)SC(C)CC)F)C)=O | C22H27F2NO3S
